US20010049445A1
reacting methyl 4-bromo-3-oxovalerate with benzamide to give methyl 2-(5-methyl-2-phenyl-4-oxazolyl)acetate, or reacting ethyl 4-bromo-3-oxovalerate with benzamide to give ethyl 2-(5-methyl-2-phenyl-4-oxazolyl)acetate,

reactant | methyl 4-bromo-3-oxovalerate | BrC(C(CC(=O)OC)=O)C | C6H9BrO3
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | methyl 2-(5-methyl-2-phenyl-4-oxazolyl)acetate | CC1=C(N=C(O1)C1=CC=CC=C1)CC(=O)OC | C13H13NO3
